US03984548
Using the method of Example 1 diethyl ethoxymethylene malonate is reacted with 3,4-dihydro-6-methoxy-3-methyl-2H-1,4-benzoxazine and the product reacted with polyphosphoric acid to provide ethyl 2,3-dihydro-8-methoxy-3-methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylate, m.p. 165°-168° C.

reactant | diethyl ethoxymethylene malonate | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 3,4-dihydro-6-methoxy-3-methyl-2H-1,4-benzoxazine | COC=1C=CC2=C(NC(CO2)C)C1 | C10H13NO2
product | ethyl 2,3-dihydro-8-methoxy-3-methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylate | COC1=CC=C2C=3N(C(CO2)C)C=C(C(C13)=O)C(=O)OCC | C16H17NO5
